US04731358
B. 3-(2-aminoethyl)-4-ethoxycarbonyl indole
0.5 g of 4-ethoxycarbonyl-3-(2-nitrovinyl)indole are heated under nitrogen for 45 minutes in the steam bath in 50 ml of formic acid with 1.5 g of 10% palladium-carbon. The palladium carbon is then filtered off, the filtrate evaporated, the evaporation residue [3-(2-aminoethyl)-4-ethoxycarbonyl indole] is then further reacted immediately.

reactant | 4-ethoxycarbonyl-3-(2-nitrovinyl)indole | 0.5 g | C(C)OC(=O)C1=C2C(=CNC2=CC=C1)C=C[N+](=O)[O-] | C13H12N2O4
solvent | formic acid | 50 ml | C(=O)O | CH2O2
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | 3-(2-aminoethyl)-4-ethoxycarbonyl indole | NCCC1=CNC2=CC=CC(=C12)C(=O)OCC | C13H16N2O2
